US04336322
Synthesis of 2-Amino-4-(1-ethyl-1-methylpentyl)-5-hexadecyloxyphenol Hydrochloric Acid Salt
To 6 g of 2-acetamido-4-(1-ethyl-1-methylpentyl)-5-hexadecyloxyphenol were added 30 ml of ethanol and 25 ml of concentrated hydrochloric acid, and the resulting mixture was heated on a steam bath for 4 hours. Thereafter, the reaction solution was cooled with ice whereupon it separated into two layers. The oil layer was separated and dried under reduced pressure. Yield: 3.5 g.

reactant | 2-acetamido-4-(1-ethyl-1-methylpentyl)-5-hexadecyloxyphenol | 6 g | C(C)(=O)NC1=C(C=C(C(=C1)C(CCCC)(C)CC)OCCCCCCCCCCCCCCCC)O | C32H57NO3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Amino-4-(1-ethyl-1-methylpentyl)-5-hexadecyloxyphenol Hydrochloric Acid Salt | Cl.NC1=C(C=C(C(=C1)C(CCCC)(C)CC)OCCCCCCCCCCCCCCCC)O | InChI=1S/C30H55NO2.ClH/c1-5-8-10-11-12-13-14-15-16-17-18-19-20-21-23-33-29-25-28(32)27(31)24-26(29)30(4,7-3)22-9-6-2;/h24-25,32H,5-23,31H2,1-4H3;1H
